US07135492B2
Ethyl chlorooxoacetate (12.3 g; 0.09 mol) was added dropwise to the solution N-(5-chloro-2-methylphenyl)-N′-ethylthiourea (13.7 g; 0.06 mol) in chloroform (300 mL). The mixture was heated at reflux for 3 hour then evaporated to dryness. The residue was dissolved in ethyl acetate (400 mL) and washed with saturated sodium bicarbonate solution (300 mL), then with water (300 mL). ). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residual solid was slurried in ether and filtered. The solid was washed with ether and air dried to give 1-(5-Chloro-2-methylphenyl)-3-ethyl-2-thioxo-4,5-imidazolidinedione (14.1 g), m.p. 173–174° C. Mass spectrum; (El, M.+) m/z 382/384. 1 H-NMR (DMSO-d6; 300 MHz): δ 7.49–7.40 (m, 3H), 3.92 (m, 2H), 2.15 (s, 3H), and 1.23 ppm (t, 3H).

reactant | Ethyl chlorooxoacetate | 0.09 mol, 12.3 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | N-(5-chloro-2-methylphenyl)-N′-ethylthiourea | 0.06 mol, 13.7 g | ClC=1C=CC(=C(C1)NC(=S)NCC)C | C10H13ClN2S
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-Chloro-2-methylphenyl)-3-ethyl-2-thioxo-4,5-imidazolidinedione | 14.1 g | ClC=1C=CC(=C(C1)N1C(N(C(C1=O)=O)CC)=S)C | C12H11ClN2O2S
